ramos_pfc_frontier_00f3831c949d08ca - controlled evaluation
.include "/home/cheriearjun/AnalogDesignRL/circuits/benchmark_ramos_pfc_pin_3/netlist.spice"
.include "/home/cheriearjun/AnalogDesignRL/runs/research_pilot_007/evaluation_worker/f3a4af7f723972a2ca63afbd0e51cc17/evaluation_002/parameters.spice"
.param mc_mm_switch=0 mc_pr_switch=0
.include "/home/cheriearjun/AnalogDesignRL/.deps/sky130_pdk/libs.tech/ngspice/corners/tt.spice"
.temp 27
VDD vdd 0 1.8

VIN signal 0 dc 0.4 ac 1
* DC feedback biases the amplifier; at AC the inverting input is grounded.
Lfeedback out inv 1T
Cbreak inv 0 1T
Xamp 0 vdd inv signal out ramos_pfc_pin_3
CL out 0 1e-10
.control
set noaskquit
set numdgt=12
set wr_vecnames
set wr_singlescale

op
wrdata operating_point.tsv v(out) i(vdd)
let check_power_result = -i(vdd)*1.8
let check_dc_error_result = abs(v(out)-0.4)
print check_power_result check_dc_error_result
ac dec 100 0.1 1000000000.0
let gain_db = db(v(out))
let phase_rad = cph(v(out))
wrdata ac.tsv gain_db phase_rad

let check_magnitude = mag(v(out))
let check_gain_db = db(v(out))
let check_margin = 180 + cph(v(out))*57.29577951308232
meas ac check_gain_db_result find check_gain_db at=0.1
meas ac check_unity_hz_result when check_magnitude=1 fall=1
meas ac check_margin_deg_result find check_margin when check_magnitude=1 fall=1

quit
.endc
.end
